US06004977
6-Fluoro-2-(4-pyridinylamino)-1,2,3,4-tetrahydroisoquinolin-7-ol hydrobromide
Boron tribromide (8.8 g) was added dropwise to a solution of 6-fluoro-7-methoxy-2-(4-pyridinylamino)-1,2,3,4-tetrahydroisoquinoline (2.9 g) in dichloromethane (200 mL) at -78° C. The dry ice bath was removed, and the suspension was stirred at ambient temperature for 3 hrs. The reaction mixture was cooled to -78° C., and methanol (100 mL) was added. The mixture was stirred at ambient temperature for 1 hr and concentrated in vacuo. The residue was washed with methanol/ethyl ether and recrystallized from 2-propanol/ethyl acetate to give 0.61 g (17%) of product, mp 244-245° C. (dec).

reactant | Boron tribromide | 8.8 g | B(Br)(Br)Br | BBr3
reactant | 6-fluoro-7-methoxy-2-(4-pyridinylamino)-1,2,3,4-tetrahydroisoquinoline | 2.9 g | FC=1C=C2CCN(CC2=CC1OC)NC1=CC=NC=C1 | C15H16FN3O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 6-Fluoro-2-(4-pyridinylamino)-1,2,3,4-tetrahydroisoquinolin-7-ol hydrobromide | 0.61 g, 17% | Br.FC=1C=C2CCN(CC2=CC1O)NC1=CC=NC=C1 | InChI=1S/C14H14FN3O.BrH/c15-13-7-10-3-6-18(9-11(10)8-14(13)19)17-12-1-4-16-5-2-12;/h1-2,4-5,7-8,19H,3,6,9H2,(H,16,17);1H
